US04353827
7.65 g (0.04 mol) of 6-ethylisatoic acid anhydride and 4.6 g (0.04 mol) of L-proline are suspended in 40 ml of dimethyl sulphoxide, heated to 70° for 2.5 hours, the solvent is removed in a high vacuum and the oil obtained is heated to 170° for 15 minutes. The crude product is purified by chromatography on silica gel using chloroform for the elution. There is obtained amorphous (S)-6-ethyl-1,2,3,11a-tetrahydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine-5,11(10H)-dione.

reactant | 6-ethylisatoic acid anhydride | 0.04 mol, 7.65 g | C(C)C=1C=CC=C2C1C(=O)OC(N2)=O | C10H9NO3
reactant | L-proline | 0.04 mol, 4.6 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
solvent | dimethyl sulphoxide | 40 ml | CS(=O)C | C2H6OS
product | (S)-6-ethyl-1,2,3,11a-tetrahydro-5H-pyrrolo[2,1-c][1,4]benzodiazepine-5,11(10H)-dione | C(C)C1=CC=CC2=C1C(N1[C@H](C(N2)=O)CCC1)=O | C14H16N2O2
